US07183306B2
A solution of trifluoromethanesulfonic anhydride (207 μl) in CH2Cl2 (1 mg) was added to a solution of 4-[1-(6-methoxy-3-pyridinyl)-3-(2,2,2-trifluoroethoxy)-1H-pyrazol-5-yl]phenol (300 mg) and pyridine (199 μl) in CH2C12 (3 ml) under ice-bath cooling. The mixture was stirred at same temperature for 1 hour. The reaction was quenched by adding saturated aqueous ammonium chloride solution (5 ml) The mixture was partitioned between AcOEt and 1M HCl. The mixture was washed with saturated aqueous sodiumbicarbonate solution and saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo to give 4-[l-(6-methoxy-3-pyridinyl)-3-(2,2,2-trifluoro-ethoxy)-1H-pyrazol-5-yl]phenyl trifluoromethane-sulfonate (439 mg) as an oil.

reactant | trifluoromethanesulfonic anhydride | 207 μl | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 4-[1-(6-methoxy-3-pyridinyl)-3-(2,2,2-trifluoroethoxy)-1H-pyrazol-5-yl]phenol | 300 mg | COC1=CC=C(C=N1)N1N=C(C=C1C1=CC=C(C=C1)O)OCC(F)(F)F | C17H14F3N3O3
reactant | pyridine | 199 μl | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 1 mg | C(Cl)Cl | CH2Cl2
product | 4-[l-(6-methoxy-3-pyridinyl)-3-(2,2,2-trifluoro-ethoxy)-1H-pyrazol-5-yl]phenyl trifluoromethane-sulfonate | 439 mg | FC(S(=O)(=O)OC1=CC=C(C=C1)C1=CC(=NN1C=1C=NC(=CC1)OC)OCC(F)(F)F)(F)F | C18H13F6N3O5S
